US06479536B1
N-[3-(4-Fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro- 1-benzofuran-5-yl]-4-methoxybenzamide
By using 3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine and 4-methoxybenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 79%. Melting point: 191-194° C. (Ethyl acetate-hexane)

reactant | 3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | FC1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N)C)(C)C | C19H22FNO
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-[3-(4-Fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro- 1-benzofuran-5-yl]-4-methoxybenzamide | Yield: 79% | FC1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NC(C2=CC=C(C=C2)OC)=O)C)(C)C | C27H28FNO3
